US06548667B2
Preparation of (2R)-3-methyl-2-[(2-chlorobenzthiazol-6-sulfonyl)amino]butanoic Acid Methylester
(D)-valine methylester hydrochloride (0.33 g, 2.0 mmol) was dispersed in dichloromethane (5 mL) and cooled down to 0° C. 2-Chloro-6-benzthiazolsulfonyl chloride (0.5 g, 1.0 equi.) prepared in Example 13 was dissolved in dichloromethane (3 mL) to give a dichloromethane solution. Triethylamine (0.83 mL, 3 equi.) and the dichloromethane solution were added while maintaining the temperature of 0° C. When starting material was exhausted after 5 hours, the organic phase was washed with 1N HCl, dried over MgSO4 and distilled under reduced pressure. Then, the product was eluted and purified on silica gel chromatography using ethylacetate/n-hexane (1/3) solvent to prepare the titled compound, (2R)-3-methyl-2-[(2-chlorobenzthiazol-6-sulfonyl)amino] butanoic acid methylester (0.65 g, 90%).

reactant | (D)-valine methylester hydrochloride | 2.0 mmol, 0.33 g | Cl.COC([C@H](N)C(C)C)=O
reactant | 2-Chloro-6-benzthiazolsulfonyl chloride | 0.5 g | ClC=1SC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C7H3Cl2NO2S2
reactant | Triethylamine | 0.83 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (2R)-3-methyl-2-[(2-chlorobenzthiazol-6-sulfonyl)amino]butanoic Acid Methylester | COC([C@@H](C(C)C)NS(=O)(=O)C1=CC2=C(N=C(S2)Cl)C=C1)=O | C13H15ClN2O4S2
